US04145549
(a) N-benzoxycarbonyl-L-proline tert.-butyl ester
126.9 (1 mol) of oxalyl chloride is added dropwise over 15 minutes to a stirred mixture of 200 ml absolute dimethylformamide and 500 ml absolute acetonitrile cooled to -20°. The solution is stirred for a further 15 minutes at -20° and then 249 g (1 mol) N-carbobenzoxy-L-proline is added. After 15 minutes of stirring, the mixture is treated dropwise with a mixture of 250 ml of absolute tert.-butanol and 200 ml absolute pyridine at such a rate that the temperature of the mixture does not rise above -15°. Cooling of the mixture is then stopped, and the mixture is maintained at room temperature for 3 hours. The mixture is worked up by partitioning between 2N sodium carbonate solution and methylene chloride and obtaining the heading compound from the methylene chloride phase as an oil nD23 = 1.5015 which slowly crystallizes out.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
reactant | N-carbobenzoxy-L-proline | 1 mol, 249 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | tert.-butanol | 250 ml | C(C)(C)(C)O | C4H10O
product | N-benzoxycarbonyl-L-proline tert.-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C17H23NO4
